US07560481B2
2-piperidin-1-ylethyl methanesulfonate
The 1-piperidineethanol (Aldrich, 0.16 g, 1.2 mmol), triethylamine (0.56 mL, 4.1 mmol), and methanesulfonyl chloride (0.15 mL, 1.9 mmol) in 10 mL THF were processed as described in Example 1C to give the title compound that was used directly in the next reaction.

reactant | 1-piperidineethanol | 1.2 mmol, 0.16 g | N1(CCCCC1)CCO | C7H15NO
reactant | triethylamine | 4.1 mmol, 0.56 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 1.9 mmol, 0.15 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-piperidin-1-ylethyl methanesulfonate | CS(=O)(=O)OCCN1CCCCC1 | C8H17NO3S
